* File: OR2X1.pex.netlist
* Created: Wed Jan  2 18:56:59 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt OR2X1  Y A B VDD GND
* 
MM3 a_2_54# A GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM4 GND B a_2_54# GND NMOS_VTL L=5e-08 W=2.5e-07
MM5 Y a_2_54# GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM0 a_9_54# A a_2_54# VDD PMOS_VTL L=5e-08 W=1e-06
MM1 VDD B a_9_54# VDD PMOS_VTL L=5e-08 W=1e-06
MM2 Y a_2_54# VDD VDD PMOS_VTL L=5e-08 W=5e-07
c_5 A 0 0.111279f
c_11 B 0 0.102464f
c_16 VDD 0 0.120654f
c_22 a_2_54# 0 0.184486f
c_27 GND 0 0.127853f
c_32 Y 0 0.0507368f
*
.include "OR2X1.pex.netlist.OR2X1.pxi"
*
.ends
*
*
